US04515801
244 g (2 mols) of salicylaldehyde in 400 ml of dimethylformamide are added dropwise to a suspension of 60 g (2 mols) of 80% strength sodium hydride in 2,000 ml of absolute dimethylformamide, while cooling and stirring. After one hour at room temperature, 312.9 g (2.1 mols) of dimethylallyl bromide are added dropwise, again at 0° C. The mixture is stirred at room temperature overnight and thereafter the solvent is largely evaporated off and the residue is carefully hydrolyzed. The product is extracted with three 400 mL portions of methylene chloride and the combined organic phases are washed with two 400 ml portions of water. After drying over sodium sulphate and stripping off the solvent, the residue which remains is distilled in vacuo. 334.4 g (88% of theory) of 2-(3-methyl-2-butenyloxy)-benzaldehyde of boiling point 110° C./10 mm Hg are obtained.

reactant | salicylaldehyde | 2 mols, 244 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylallyl bromide | 2.1 mols, 312.9 g | CC(=CCBr)C | C5H9Br
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2,000 ml | CN(C=O)C | C3H7NO
product | 2-(3-methyl-2-butenyloxy)-benzaldehyde | 334.4 g, 88% | CC(=CCOC1=C(C=O)C=CC=C1)C | C12H14O2
